US05286728
3.4 g of 1-(4-aminobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine and 2.6 g of 2-isopropyloxyethyl p-toluenesulfonate are suspended in 30 ml of toluene and heated to boiling point. The clear solution so obtained is boiled under reflux for 17 hours and then concentrated by evaporation. Water is added to the residue, and the mixture is rendered alkaline with concentrated sodium hydroxide solution and extracted by shaking with methylene chloride. The crude oil is chromatographed over silica gel and crystallised in the form of the hydrochloride from acetone, yielding 1-{4-[N-(2-isopropyloxyethyl)amino]benzoyl}-4-[2-(4-chlorophenyl)ethyl]piperazine hydrochloride having a melting point of 184°-185°.

reactant | 1-(4-aminobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine | 3.4 g | NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C19H22ClN3O
reactant | 2-isopropyloxyethyl p-toluenesulfonate | 2.6 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOC(C)C)C | C12H18O4S
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-{4-[N-(2-isopropyloxyethyl)amino]benzoyl}-4-[2-(4-chlorophenyl)ethyl]piperazine hydrochloride | Cl.C(C)(C)OCCNC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | InChI=1S/C24H32ClN3O2.ClH/c1-19(2)30-18-12-26-23-9-5-21(6-10-23)24(29)28-16-14-27(15-17-28)13-11-20-3-7-22(25)8-4-20;/h3-10,19,26H,11-18H2,1-2H3;1H
